US04720497
6-[N-(2-Chloroethyl)carbamoyl]thiopurine (Ia)
A suspension of 6-mercaptopurine monohydrate (17.0 g, 0.1 mole) in dimethylformamide (150 ml) is treated with triethylamine (10.1 g, 0.1 mole) and the solid is dissolved by warming of the mixture to 50°-60° C. The solution is cooled to 15° C. and 2-chloroethylisocyanate (11.6 g, 0.11 mole) is dripped in under cooling with tap water to 15°-20° C. The reaction mixture is stirred at this temperature for 2 hours, and the precipitated product is collected on filter, washed with acetone and dried under reduced pressure at a temperature of approx. 50° C. to give 20.7 g (80%) of the title compound Ia, melting at 221°-223° C. UV absorption spectrum (in dimethylsulfoxide), λ max 326 nm (log ε4.33).

reactant | 6-mercaptopurine monohydrate | 0.1 mole, 17.0 g | O.SC1=C2NC=NC2=NC=N1
reactant | triethylamine | 0.1 mole, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloroethylisocyanate | 0.11 mole, 11.6 g | ClCCN=C=O | C3H4ClNO
reactant | water | O | H2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 6-[N-(2-Chloroethyl)carbamoyl]thiopurine | 20.7 g, 80% | ClCCNC(=O)SC1=C2NC=NC2=NC=N1 | C8H8ClN5OS
